US04592866
1,2,3,4-Tetrahydro-1-methyl-2-[(dimethylamino)methyl]-4-(1-methylethyl)-5H-1,4-benzodiazepin-5-one
A mixture of 5.0 g (0.02 mole) of 2-chloromethyl-1,2,3,4-tetrahydro-1-methyl-4-(1-methylethyl)-5H-1,4-benzodiazepin-5-one, and 15.0 g (0.45 mole) of dimethylamine, and 200 ml of methanol were placed in a steel bomb and heated and stirred at 100° C. for 15 hr. After concentrating in vacuo, the residue partitioned between dilute sodium hydroxide solution and chloroform. The chloroform layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue crystallized in isopropyl ether and was recrystallized twice from the same. It weighed 29.0 g (68%), m.p. 93°-95° C.

reactant | 2-chloromethyl-1,2,3,4-tetrahydro-1-methyl-4-(1-methylethyl)-5H-1,4-benzodiazepin-5-one | 0.02 mole, 5.0 g | ClCC1N(C2=C(C(N(C1)C(C)C)=O)C=CC=C2)C | C14H19ClN2O
reactant | dimethylamine | 0.45 mole, 15.0 g | CNC | C2H7N
solvent | methanol | 200 ml | CO | CH4O
product | 1,2,3,4-Tetrahydro-1-methyl-2-[(dimethylamino)methyl]-4-(1-methylethyl)-5H-1,4-benzodiazepin-5-one | CN1C(CN(C(C2=C1C=CC=C2)=O)C(C)C)CN(C)C | C16H25N3O
